US05620969
To a cold (0°-5° C.) solution of 3-(t-butyloxycarbonylamino)-1-propylamine (4.00 g, 23 mmol) and triethylamine (2.8 mL, 20 mmol) in anhydrous CH2Cl2 (15 mL) was added slowly a solution of p-methoxybenzyl bromoacetate (5.18 g, 20 mmol) in anhydrous CH2Cl2 (10 mL) over a period of 2.5 h. The mixture was stirred at 0°-5° C. for 2 h, at which time TLC indicated that the reaction was complete. The mixture was washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give a dark residue. The crude material was purified by column chromatography on silica gel (elution with 50% ethyl acetate/hexane) to afford 2.81 g (40% yield) of p-methoxybenzyl [3-(t-butyloxycarbonylamino)-1-propylamino]acetate as an amber oil. 1H NMR (300 MHz, CDCl3) δ1.41 (s, 9H), 1.61 (quint, J=7 Hz, 2H), 2.63 (t, J=7 Hz, 2H), 3.17 (q, J=6 Hz, 2H), 3.38 (s, 2H), 3.78 (s, 3H), 5.07 (s, 2H), 6.86 (m, 2H), and 7.26 (m, 2H); IR (film), 1736, 1708 cm-1 ; MS (isobutane-DCI) MH+ =353. Anal. Calcd. for C18H28N2O5 : C, 61.35; H, 8.01; N, 7.95. Found: C, 60.87; H, 8.30; N, 7.89.

reactant | 3-(t-butyloxycarbonylamino)-1-propylamine | 23 mmol, 4.00 g | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | p-methoxybenzyl bromoacetate | 20 mmol, 5.18 g | BrCC(=O)OCC1=CC=C(C=C1)OC | C10H11BrO3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | p-methoxybenzyl [3-(t-butyloxycarbonylamino)-1-propylamino]acetate | 2.81 g, 40% yield | C(C)(C)(C)OC(=O)NCCCNCC(=O)OCC1=CC=C(C=C1)OC | C18H28N2O5
